US04550166
A mixture of 16.46 g of 2'-bromo-3,3'-bipyridine, 24 ml of anhydrous hydrazine and 500 ml of dry pyridine was heated at 100° C. for 3 days. The solvent was removed under vacuum, toluene was added and removed and the residue was partitioned between saturated aqueous sodium carbonate and methylene chloride. The organic layer was dried, the solvent removed under vacuum and the residue crystallized from methylene chloride-hexane, giving 2'-hydrazino-3,3'-bipyridine as tan crystals.

reactant | 2'-bromo-3,3'-bipyridine | 16.46 g | BrC1=NC=CC=C1C=1C=NC=CC1 | C10H7BrN2
reactant | hydrazine | 24 ml | NN | H4N2
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2'-hydrazino-3,3'-bipyridine | N(N)C1=NC=CC=C1C=1C=NC=CC1 | C10H10N4
